US07018988B2
(2S)-1-[(4-chlorophenoxy)acetyl]-N-(9-ethyl-9H-carbazol-3-yl)-4-methylene-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, (4-chlorophenoxy)acetyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 100% purity by LC/MS. MS(ESI+): m/z=488.4.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | (4-chlorophenoxy)acetyl chloride | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S)-1-[(4-chlorophenoxy)acetyl]-N-(9-ethyl-9H-carbazol-3-yl)-4-methylene-2-pyrrolidinecarboxamide | ClC1=CC=C(OCC(=O)N2[C@@H](CC(C2)=C)C(=O)NC=2C=CC=3N(C4=CC=CC=C4C3C2)CC)C=C1 | C28H26ClN3O3
